### PR TITLE
[Merged by Bors] - Feat: Add Yang-Baxter equation and the opposite braided monoidal category 

### PR DESCRIPTION
**Pull request by Shamrock-Frost**
This PR adds some basics about monoidal opposite categories and their relation to the original category, as well as the Yang-Baxter equation for braided monoidal categories. It should be easy to define an action of the braid group on an object of a braided monoidal category from this.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 1]
```diff
@@ -123,6 +129,38 @@ theorem braiding_naturality {X X' Y Y' : C} (f : X ⟶ Y) (g : X' ⟶ Y') :
   rw [tensorHom_def' f g, tensorHom_def g f]
   simp_rw [Category.assoc, braiding_naturality_left, braiding_naturality_right_assoc]
 
+theorem yang_baxter (X Y Z : C) :
+    (α_ X Y Z).inv ≫ ((β_ X Y).hom ▷ Z) ≫ (α_ Y X Z).hom
+    ≫ (Y ◁ (β_ X Z).hom) ≫ (α_ Y Z X).inv
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:134]: In mathlib's coding style, we are supposed to write infix operators like `≫` or `≪≫` at the end of the line rather than at the beginning.

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean]: Fixed. It would be nice if the linter could catch this

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 2]
```diff
@@ -123,6 +129,38 @@ theorem braiding_naturality {X X' Y Y' : C} (f : X ⟶ Y) (g : X' ⟶ Y') :
...
+    simp only [assoc]
+
+theorem yang_baxter' (X Y Z : C) :
+    Iso.homCongr (α_ X Y Z) (α_ Z Y X)
+      (((β_ X Y).hom ▷ Z) ⊗≫ (Y ◁ (β_ X Z).hom) ⊗≫ ((β_ Y Z).hom ▷ X))
+    = ((X ◁ (β_ Y Z).hom) ⊗≫ ((β_ X Z).hom ▷ Y) ⊗≫ (Z ◁ (β_ X Y).hom)) := by
+  dsimp only [Mathlib.Tactic.Coherence.monoidalComp,
+              Mathlib.Tactic.Coherence.MonoidalCoherence.hom, Iso.homCongr_apply]
+  simp only [whiskerRight_tensor, id_whiskerRight, id_comp, Iso.inv_hom_id,
+             comp_id, assoc, tensor_id, id_comp, yang_baxter]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:154]: I would think that the following statement would be more in the spirit of the current API:
```suggestion
theorem yang_baxter' (X Y Z : C) :
    ((β_ X Y).hom ▷ Z) ⊗≫ (Y ◁ (β_ X Z).hom) ⊗≫ ((β_ Y Z).hom ▷ X) =
      𝟙 _ ⊗≫ ((X ◁ (β_ Y Z).hom) ⊗≫ ((β_ X Z).hom ▷ Y) ⊗≫ (Z ◁ (β_ X Y).hom)) ⊗≫ 𝟙 _ := by
  rw [← cancel_epi (α_ X Y Z).inv, ← cancel_mono (α_ Z Y X).hom]
  convert yang_baxter X Y Z using 1
  all_goals coherence
```

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 3]
```diff
@@ -123,6 +129,38 @@ theorem braiding_naturality {X X' Y Y' : C} (f : X ⟶ Y) (g : X' ⟶ Y') :
...
+    = (X ◁ (β_ Y Z).hom) ≫ (α_ X Z Y).inv ≫
+      ((β_ X Z).hom ▷ Y) ≫ (α_ Z X Y).hom ≫
+      (Z ◁ (β_ X Y).hom) := by
+  have := (braiding_naturality_right_assoc X (β_ Y Z).hom (α_ Z Y X).hom).symm
+  refine Eq.trans (Eq.symm ?_) (Eq.trans this ?_)
+  · refine Eq.trans (congrArg (. ≫ _) (braiding_tensor_right X Y Z)) ?_
+    simp only [assoc]
+  · refine congrArg (_ ≫ .) ((Iso.eq_comp_inv _).mp ?_)
+    refine Eq.trans (braiding_tensor_right X Z Y) ?_
+    simp only [assoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:145]: You should add the attribute `@[simp, reassoc]` to the four lemmas `braiding_tensor_left` et al, so that you could simplify this proof:
```suggestion
  rw [← braiding_tensor_right_assoc X Y Z, ← cancel_mono (α_ Z Y X).inv, assoc, assoc,
    assoc, assoc, assoc, assoc, Iso.hom_inv_id, comp_id,
    ← braiding_naturality_right X (β_ Y Z).hom, braiding_tensor_right]
```
(Note that `@[reassoc (attr := simp)]` would be the correct spelling if the LHS of the lemmas was a composition, but when only the RHS is `@[simp, reassoc]` is useful.)

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 4]
```diff
@@ -618,4 +660,108 @@ attribute [reassoc] associator_monoidal
...
+                (β_ (mop X) (mop Z ⊗ mop Y)).hom
+    refine (α_ (mop X) (mop Y) (mop Z)).inv_comp_eq.mp ?_
+    simp only [← assoc]
+    refine (α_ (mop Z) (mop Y) (mop X)).comp_inv_eq.mpr ?_
+    simp only [braiding_tensor_left, braiding_tensor_right,
+               assoc, Iso.inv_hom_id, comp_id]
+    exact yang_baxter (mop X) (mop Y) (mop Z)
+  left_unitality X :=
+    Eq.symm $ Eq.trans (congrArg (. ≫ _) (tensor_id _ _))
+    $ Eq.trans (id_comp _) (braiding_rightUnitor Cᴹᵒᵖ (mop X))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:691]: In this proof (and also similar proofs below), it would be advisable to use sequences of `rw` (or maybe `erw` if is it necessary), and probably use `_assoc` versions of some lemmas.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 3 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:145]: I would rather not touch those at the moment, since this will already need to be fixed up once #6307 is merged

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 4 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:691]: Oh I didn't realize erw would work, nice! I haven't really used that tactic before

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 5]
```diff
@@ -123,6 +129,38 @@ theorem braiding_naturality {X X' Y Y' : C} (f : X ⟶ Y) (g : X' ⟶ Y') :
   rw [tensorHom_def' f g, tensorHom_def g f]
   simp_rw [Category.assoc, braiding_naturality_left, braiding_naturality_right_assoc]
 
+theorem yang_baxter (X Y Z : C) :
+    (α_ X Y Z).inv ≫ ((β_ X Y).hom ▷ Z) ≫ (α_ Y X Z).hom ≫
+    (Y ◁ (β_ X Z).hom) ≫ (α_ Y Z X).inv ≫
+    ((β_ Y Z).hom ▷ X) ≫ (α_ Z Y X).hom
+    = (X ◁ (β_ Y Z).hom) ≫ (α_ X Z Y).inv ≫
```
[the remark this answers is not in the document]
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean]: 🤦‍♂️. Fixed

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:142]: I am only suggesting to take the opportunity to fix 4 missing `reassoc` attributes and cleaning up a proof (which would become a sequence of `rw`, which is the easiest to maintain). I do not see any drawback to this.

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:142]: Fair enough

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 6]
```diff
@@ -348,6 +348,20 @@ theorem inv_whiskerLeft (X : C) {Y Z : C} (f : Y ⟶ Z) [IsIso f] :
...
+lemma whiskerLeftIso_refl (W X : C) :
+    whiskerLeftIso W (Iso.refl X) = Iso.refl (W ⊗ X) :=
+  Iso.ext (whiskerLeft_id W X)
+
+@[simp]
+lemma whiskerLeftIso_trans (W : C) {X Y Z : C} (f : X ≅ Y) (g : Y ≅ Z) :
+    whiskerLeftIso W (f ≪≫ g) = whiskerLeftIso W f ≪≫ whiskerLeftIso W g :=
+  Iso.ext (whiskerLeft_comp W f.hom g.hom)
+
+@[simp]
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:361]: Do we need a simp in this direction? The opposite seems more likely to me.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 7]
```diff
@@ -618,4 +651,100 @@ attribute [reassoc] associator_monoidal
...
+  hexagon_forward X Y Z := hexagon_reverse (unmop Z) (unmop Y) (unmop X)
+  hexagon_reverse X Y Z := hexagon_forward (unmop Z) (unmop Y) (unmop X)
+
+/-- The identity functor on `C`, viewed as a functor from `C` to its
+monoidal opposite, upgraded to a braided functor. -/
+@[simps!] def mopBraidedFunctor : BraidedFunctor C Cᴹᵒᵖ where
+  μ X Y := (β_ (mop X) (mop Y)).hom
+  ε := 𝟙 (𝟙_ Cᴹᵒᵖ)
+  associativity X Y Z := by
+    simp only [tensorHom_id, id_tensorHom]
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:669]: I think we need just `simp [← yang_baxter_assoc]` here. We may miss some simp lemmas like `mop (α_ X Y Z).hom = (α_ (mop Z) (mop Y) (mop X)).inv`.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 8]
```diff
@@ -123,6 +128,30 @@ theorem braiding_naturality {X X' Y Y' : C} (f : X ⟶ Y) (g : X' ⟶ Y') :
   rw [tensorHom_def' f g, tensorHom_def g f]
   simp_rw [Category.assoc, braiding_naturality_left, braiding_naturality_right_assoc]
 
+theorem yang_baxter (X Y Z : C) :
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:131]: Is there some reasons why you put associators at the both ends in the RHS? I think this is one possible choice, but we also have other choices.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 9]
```diff
@@ -123,6 +128,30 @@ theorem braiding_naturality {X X' Y Y' : C} (f : X ⟶ Y) (g : X' ⟶ Y') :
...
+    (α_ X Y Z).inv ≫ ((β_ X Y).hom ▷ Z) ≫ (α_ Y X Z).hom ≫
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:132]: We don't need parentheses around whiskerings.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 8 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:131]: Sorry, I meant LHS, not RHS.

File: Mathlib/CategoryTheory/Monoidal/Category.lean (hunk 6 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Category.lean:361]: The fact that that's inconsistent with the direction of the simp for refl, trans doesn't feel right to me

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 7 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:669]: I got (roughly) this to work by adding `@[simps]` to `monoidalCategoryMop`

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 8 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:131]: I chose this way of writing it because it becomes an equality of maps `X ⊗ Y ⊗ Z ⟶ Z ⊗ Y ⊗ X`, both the domain and codomain being fully right associated. Also because it's what was easiest for the proof of associativity in `mopBraidedFunctor`. There are other choices we could make but I don't see a reason to prefer another

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 9 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:132]: I dislike writing a series of infix operators when it's unclear as a reader what the precedence is, even if it's unambiguous to lean

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 7 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean]: For `unmopBraidedFunctor` I couldn't get it to happen just with simp, although the proof is much cleaner now. Also it seems that that `@[simps]` attribute breaks the ability of `aesop_cat` to prove `μ_natural_left, μ_natural_right` for `mopBraidedFunctor`. Do you have any suggestions?

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean]: Ah, I see why you suggested `mop (α_ X Y Z).hom = (α_ (mop Z) (mop Y) (mop X)).inv` as a simp lemma. That does seem much nicer. I've started adding lemmas like this for mop/op but simp now runs into a stack overflow, so I need to debug first

Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean]: > Also it seems that that @[simps] attribute breaks the ability of aesop_cat to prove μ_natural_left, μ_natural_right for mopBraidedFunctor.

I think this suggests that adding @[simps] is not a good idea for these instances. In fact, the lemmas provided by simps (which can be seen by putting `set_option trace.simps.verbose true in`)  are different from what we want. I think the following lemmas are helpful, but unfortunately we should add them manually:
```lean
@[simp] theorem mop_associator_hom (X Y Z : C) : (α_ X Y Z).hom.mop = (α_ (mop Z) (mop Y) (mop X)).inv := rfl
@[simp] theorem unmop_associator_hom (X Y Z : Cᴹᵒᵖ) : (α_ X Y Z).hom.unmop = (α_ (unmop Z) (unmop Y) (unmop X)).inv := rfl
```

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 9 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:133]: Much of the mathlib code seems to use as few parentheses as possible (not all, of course). The priority is not obvious from the text, but we can see it by hovering over it in VSCode. I think this is one of the reasons why we don't need parentheses in practice.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 7 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean]: Yes, I definitely agree putting `@[simps]` where I did is a mistake. I'm in the process of adding lemmas like what you've written and making the existing code use them

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean]: The code has been updated with these lemmas

File: Mathlib/CategoryTheory/Monoidal/Category.lean (hunk 6 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Category.lean:361]: I found the similar lemma `inv_whiskerLeft` has the opposite direction `inv (X ◁ f) = X ◁ inv f`, which is based on the idea of pushing non-primitive components of monoidal categories inside as much as possible. The identity and the compositions are considered as primitive, but not for `inv`. This has an advantage as we may expect that 

1. `inv f` is further simplified,
2. some lemmas involving the left whiskering can be applied to an expression containing `X ◁ inv f`, but not to `inv (X ◁ f)`.

I think this idea will also work in the case of `Iso`.

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Category.lean:361]: Good points. At least like this `whiskerLeftIso_refl` is consistent with `whiskerLeft_id`, `whiskerLeftIso_trans` is consistent with `whiskerLeft_comp`, and `whiskerLeftIso_symm` is consistent with `whiskerLeft_inv`. I've changed it to be as you suggested

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 10]
```diff
@@ -618,4 +652,122 @@ attribute [reassoc] associator_monoidal
...
+/-- The identity functor on `C`, viewed as a functor from `C` to its
+monoidal opposite, upgraded to a braided functor. -/
+@[simps!] def mopBraidedFunctor : BraidedFunctor C Cᴹᵒᵖ where
+  μ X Y := (β_ (mop X) (mop Y)).hom
+  ε := 𝟙 (𝟙_ Cᴹᵒᵖ)
+  -- `id_tensorHom`, `tensorHom_id` should be simp lemmas when #6307 is merged
+  -- we could then make this fully automated if we mark `yang_baxter` as simp
+  -- should it be marked as such?
+  associativity X Y Z := Quiver.Hom.unmop_inj <| by
+    simp [id_tensorHom, tensorHom_id, yang_baxter]
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:714]: Great automation! In addition, `Quiver.Hom.unmop_inj` is redundant and actually no longer needed.

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:714]: It doesn't work if I remove that line on my machine. Are you possibly using lemmas from `ymizuno-monoidal-whiskering`? We should probably move further discussion to PR reviews in zulip btw

Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:714]: Here we need to use `← yang_baxter_assoc` instead.

> We should probably move further discussion to PR reviews in zulip btw

Sure!

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 11]
```diff
@@ -123,6 +129,55 @@ theorem braiding_naturality {X X' Y Y' : C} (f : X ⟶ Y) (g : X' ⟶ Y') :
...
+    (α_ X Y Z).symm ≪≫ β_ (X ⊗ Y) Z ≪≫ (α_ Z X Y).symm =
+      whiskerLeftIso X (β_ Y Z) ≪≫ (α_ X Z Y).symm ≪≫ whiskerRightIso (β_ X Z) Y :=
+  Iso.ext (hexagon_reverse X Y Z)
+
+@[reassoc]
+theorem hexagon_forward_inv (X Y Z : C) :
+    (α_ Y Z X).inv ≫ (β_ X (Y ⊗ Z)).inv ≫ (α_ X Y Z).inv =
+      Y ◁ (β_ X Z).inv ≫ (α_ Y X Z).inv ≫ (β_ X Y).inv ▷ Z := by
+  convert congrArg Iso.inv (hexagon_forward_iso X Y Z) using 1
+  <;> exact (assoc _ _ _).symm
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:172]: `simp` works

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 12]
```diff
@@ -618,4 +677,106 @@ attribute [reassoc] associator_monoidal
...
+end MonoidalOpposite
+
+/-- The braided monoidal category obtained from `C` by replacing its braiding
+`β_ X Y : X ⊗ Y ≅ Y ⊗ X` with the inverse `(β_ Y X)⁻¹ : X ⊗ Y ≅ Y ⊗ X`.
+This corresponds to the automorphism of the braid group swapping
+over-crossings and under-crossings. -/
+@[reducible] def reverseBraiding : BraidedCategory C where
+  braiding X Y := (β_ Y X).symm
+  braiding_naturality_right X {_ _} f :=
+    CommSq.w <| .vert_inv <| .mk <| braiding_naturality_left f X
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:760]: Could you add a simp lemma braiding_inv_naturality_right stating this fact in its own right to `aesop_cat` works. The proof looks fine and I think it is a cleaver use of the API.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 13]
```diff
@@ -618,4 +677,106 @@ attribute [reassoc] associator_monoidal
...
+instance : BraidedCategory Cᵒᵖ where
+  braiding X Y := (β_ Y.unop X.unop).op
+  braiding_naturality_right X {_ _} f := Quiver.Hom.unop_inj <| by simp
+  braiding_naturality_left {_ _} f Z := Quiver.Hom.unop_inj <| by simp
+  hexagon_forward X Y Z := Quiver.Hom.unop_inj <| by
+    convert hexagon_reverse Y.unop Z.unop X.unop using 1
+    <;> exact assoc _ _ _
+  hexagon_reverse X Y Z := Quiver.Hom.unop_inj <| by
+    convert hexagon_forward Z.unop X.unop Y.unop using 1
+    <;> exact assoc _ _ _
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:689]: `simp` works

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 14]
```diff
@@ -618,4 +677,106 @@ attribute [reassoc] associator_monoidal
...
+This corresponds to the automorphism of the braid group swapping
+over-crossings and under-crossings. -/
+@[reducible] def reverseBraiding : BraidedCategory C where
+  braiding X Y := (β_ Y X).symm
+  braiding_naturality_right X {_ _} f :=
+    CommSq.w <| .vert_inv <| .mk <| braiding_naturality_left f X
+  braiding_naturality_left {_ _} f Z :=
+    CommSq.w <| .vert_inv <| .mk <| braiding_naturality_right Z f
+  hexagon_forward X Y Z := hexagon_reverse_inv Y Z X
+  hexagon_reverse X Y Z := hexagon_forward_inv Z X Y
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:764]: We can omit them as `aesop_cat` works.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 15]
```diff
@@ -618,4 +690,94 @@ attribute [reassoc] associator_monoidal
...
+  funext X Y
+  exact Iso.ext (braiding_swap_eq_inv_braiding Y X).symm
+
+/-- The identity functor from `C` to `C`, where the codomain is given the
+reversed braiding, upgraded to a braided functor. -/
+def SymmetricCategory.equivReverseBraiding (C : Type u₁) [Category.{v₁} C]
+    [MonoidalCategory C] [SymmetricCategory C] :=
+  @BraidedFunctor.mk C _ _ _ C _ _ (reverseBraiding C) (.id C) $ fun X Y =>
+    (IsIso.eq_inv_comp _).mpr $ Eq.trans (id_comp _)
+    $ Eq.trans (braiding_swap_eq_inv_braiding Y X) (comp_id _).symm
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:781]:
```suggestion
  @BraidedFunctor.mk C _ _ _ C _ _ (reverseBraiding C) (.id C) fun X Y =>
    (IsIso.eq_inv_comp _).mpr $ (id_comp _).trans $
    (braiding_swap_eq_inv_braiding Y X).trans (comp_id _).symm
```

File: Mathlib/CategoryTheory/Monoidal/Opposite.lean [hunk 16]
```diff
@@ -189,37 +209,198 @@ instance monoidalCategoryOp : MonoidalCategory Cᵒᵖ where
...
+@[simps!] def mopFunctor : C ⥤ Cᴹᵒᵖ := Functor.mk ⟨mop, .mop⟩
+/-- The identity functor on `C`, viewed as a functor from the monoidal opposite of `C` to `C`. -/
+@[simps!] def unmopFunctor : Cᴹᵒᵖ ⥤ C := Functor.mk ⟨unmop, .unmop⟩
+
+/-- The (identity) equivalence between `C` and its monoidal opposite. -/
+@[simps!] def MonoidalOpposite.underlyingEquiv : C ≌ Cᴹᵒᵖ := Equivalence.refl
+
+-- todo: upgrade to monoidal equivalence
+/-- The equivalence between `C` and its monoidal opposite's monoidal opposite. -/
+@[simps!] def MonoidalOpposite.double_dual_equiv : Cᴹᵒᵖᴹᵒᵖ ≌ C := Equivalence.refl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Opposite.lean:359]:
```suggestion
@[simps!] def MonoidalOpposite.mopMopEquivalence : Cᴹᵒᵖᴹᵒᵖ ≌ C := Equivalence.refl
```
Similarly, you should remove the `_` in the definitions below. Otherwise, the PR looks good to me.

**Review by Shamrock-Frost — COMMENTED** [review]
~~> ```suggestion~~
~~@[simps!] def MonoidalOpposite.mopMopEquivalence : Cᴹᵒᵖᴹᵒᵖ ≌ C := Equivalence.refl~~
~~```~~
~~ Similarly, you should remove the _ in the definitions below. Otherwise, the PR looks good to me.  ~~

~~Done 🎉~~

I tried to reply from within vscode's github PR extension and the formatting completely broke

File: Mathlib/CategoryTheory/Monoidal/Opposite.lean (hunk 16 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Monoidal/Opposite.lean]: Done 🎉

File: Mathlib/CategoryTheory/Monoidal/Opposite.lean [hunk 17]
```diff
@@ -189,37 +209,198 @@ instance monoidalCategoryOp : MonoidalCategory Cᵒᵖ where
...
+
+-- todo: upgrade to monoidal equivalence
+/-- The equivalence between `C` and its monoidal opposite's monoidal opposite. -/
+@[simps!] def MonoidalOpposite.mopMopEquivalence : Cᴹᵒᵖᴹᵒᵖ ≌ C := Equivalence.refl
+
+/-- The identification `mop X ⊗ mop Y = mop (Y ⊗ X)` as a natural isomorphism. -/
+@[simps!]
+def MonoidalOpposite.tensorIso :
+    tensor Cᴹᵒᵖ ≅ (unmopFunctor C).prod (unmopFunctor C)
+                  ⋙ Prod.swap C C ⋙ tensor C ⋙ mopFunctor C :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Opposite.lean:365]:
```suggestion
    tensor Cᴹᵒᵖ ≅ (unmopFunctor C).prod (unmopFunctor C) ⋙
      Prod.swap C C ⋙ tensor C ⋙ mopFunctor C :=
```

**Comment by Shamrock-Frost** [comment]
bors merge
